US05753664
3,5-Dimethyl-2-[2-[4-[4-(2-dimethylaminoethoxy)-benzoyl]phenyl]ethyl]-4(3H)-quinazolinone hydrochloride
To a solution of 3,5-dimethyl-2-[2-[4-(4-hydroxy-benzoyl)phenyl]ethyl]-4(3H)-quinazolinone (534 mg) in DMF (10 ml) were added 2-dimethylaminoethyl chloride (695 mg) and potassium carbonate (677 mg) and the mixture was stirred at 80° C. for 4 hours. This reaction mixture was concentrated and extracted with ethyl acetate. The organic layer was serially washed with water and saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to 20 ml. To this organic solution was added 1N-hydrochloric acid (2 ml) and the mixture was extracted with water. The aqueous layer was diluted with saturated aqueous NaHCO3 solution and extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After concentration to 10 ml, 4N-hydrogen chloride/ethyl acetate (0.5 ml) was added, and the precipitate was collected by filtration, washed with water, and dried to provide 240 mg of white powder.

reactant | 3,5-dimethyl-2-[2-[4-(4-hydroxy-benzoyl)phenyl]ethyl]-4(3H)-quinazolinone | 534 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C25H22N2O3
reactant | 2-dimethylaminoethyl chloride | 695 mg | CN(CCCl)C | C4H10ClN
reactant | potassium carbonate | 677 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[2-[4-[4-(2-dimethylaminoethoxy)-benzoyl]phenyl]ethyl]-4(3H)-quinazolinone hydrochloride | 240 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN(C)C)=O | InChI=1S/C29H31N3O3.ClH/c1-20-6-5-7-25-27(20)29(34)32(4)26(30-25)17-10-21-8-11-22(12-9-21)28(33)23-13-15-24(16-14-23)35-19-18-31(2)3;/h5-9,11-16H,10,17-19H2,1-4H3;1H
